US05250526
N-(10-nitroxy-1-decanyl)-6-(4-methyl-1-piperazinyl)nicotinamide
6.00 g of N-(10-hydroxy-1-decanyl)-6-(4-methyl-1-piperazinyl)nicotinamide were added under ice-cooling to 20 ml of fuming nitric acid and the mixture was stirred below -5° C. for 4 hrs. This mixture was poured into an aqueous sodium hydrogencarbonate solution, extracted with methylene chloride, washed with eater and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel column chromatography (chloroform:methanol=20:1) and recrystallized from acetone-hexane to give 2.80 g (42%) of the title compound. m.p.62°-64° C.

reactant | N-(10-hydroxy-1-decanyl)-6-(4-methyl-1-piperazinyl)nicotinamide | 6.00 g | OCCCCCCCCCCNC(C1=CN=C(C=C1)N1CCN(CC1)C)=O | C21H36N4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | nitric acid | 20 ml | [N+](=O)(O)[O-] | HNO3
product | N-(10-nitroxy-1-decanyl)-6-(4-methyl-1-piperazinyl)nicotinamide | 2.80 g, 42% | O([N+](=O)[O-])CCCCCCCCCCNC(C1=CN=C(C=C1)N1CCN(CC1)C)=O | C21H35N5O4
